US07812021B2
4-(Methanesulfonyl-methyl-amino)-piperidine-1-carbonyl chloride
To a stirred solution of carbonic acid ditrichloromethyl ester (triphosgene) (0.61 g, 2.08 mmol) in CH2Cl2 (30 mL) at −78° C., was added a solution of N-Methyl-N-piperidin-4-yl-methanesulfonamide (preparation described in the patent GB2000136) (1.00 g, 5.20 mmol) and pyridine (0.92 mL, 11.4 mmol) in CH2Cl2 (20 mL) over 1 hour. The temperature was raised to RT, and stirring was continued over night. The organic phase was washed with H2O, dried over Na2SO4. Concentration under vacuo yielded 0.53 g (40%) of the title compound as a light yellow solid.

reactant | triphosgene | 2.08 mmol, 0.61 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-Methyl-N-piperidin-4-yl-methanesulfonamide | CN(S(=O)(=O)C)C1CCNCC1 | C7H16N2O2S
reactant | pyridine | 11.4 mmol, 0.92 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(Methanesulfonyl-methyl-amino)-piperidine-1-carbonyl chloride | 0.53 g, 40% | CS(=O)(=O)N(C1CCN(CC1)C(=O)Cl)C | C8H15ClN2O3S
